Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___
1. Coronary artery bypass graft x4, left internal mammary
    artery to left anterior descending artery, and saphenous
    vein grafts to diagonal, ramus, and posterior descending
    arteries.
2. Endoscopic harvesting of the long saphenous vein.
3. Aortic valve replacement with a 25 ___ Ease
    tissue valve.

 
History of Present Illness:
___ year old male presents to Cardiologists office with shortness 
of breath on exertion. He describes DOE associated with chest 
tightness. This resolves with
rest. He underwent an elective Cardiac cath ___ and revealed 
severe LM and multivessel CAD. He was transferred to ___ for 
evaluation of coronary revascularization. Echo demonstrates 
moderate to severe AS.

 
Past Medical History:
hyperglycemia 
hyperlipidemia  
arthralgia 
B 12 deficiency 
anemia 
nephrolithiasis 
HX Left leg FX 
arthritis
Psoriasis  
erectile dysfunction

 
Social History:
___
Family History:
Father MI < ___ [x] died at ___ MI    Mother < ___ [] Alzheimers
 
Physical Exam:
Pulse: 65 Resp: 18   O2 sat:99 ra
B/P  Right:140/79  
Height:     Weight:

General: Well appearing NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [x] grade _3/___bdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[]
Extremities: Warm [x], well-perfused [x]  Edema [] __0___
Varicosities: None []Left calf
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2   Left:2
DP           Right: 2  Left:2
___           Right:2   Left:2
Radial       Right: 2  Left:2

Carotid Bruit        Right:-    Left:-

 
Pertinent Results:
Intra-op TEE ___
Conclusions   
The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and global systolic function (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. There are three aortic valve leaflets. There is mild/ 
moderate aortic valve stenosis. Valve area is 1.3cm by 
continuity and 1.5cm2 by planimetry. There is a large calcific 
burden to the aortic valve. The mitral valve appears 
structurally normal with trivial mitral regurgitation. 
Intraoperative consultation with Dr. ___ d/w Dr. 
___.

Post bypass:
epinephrine and phenylephrine gtts
well seated 25mm BP valve in the aortic position without PVL and 
peak and mean gradients of 20 and 8mmHg. LVEF 55%. RV structure 
and function normal. No other valvular abnormalities noted. 
Aorta intact post decannulation.   

___ 04:35AM BLOOD WBC-8.7 RBC-2.47* Hgb-7.9* Hct-24.5* 
MCV-99* MCH-32.0 MCHC-32.2 RDW-13.8 RDWSD-50.2* Plt ___
___ 01:48AM BLOOD ___ PTT-28.0 ___
___ 01:45PM BLOOD ___ PTT-32.9 ___
___ 04:35AM BLOOD Glucose-89 UreaN-16 Creat-0.7 Na-135 
K-4.4 Cl-99 HCO3-25 AnGap-15
___ 06:15AM BLOOD K-3.9
___ 06:05AM BLOOD Glucose-118* UreaN-18 Creat-0.9 Na-135 
K-4.4 Cl-98 HCO3-24 AnGap-17
___ 01:48AM BLOOD Glucose-83 UreaN-11 Creat-0.6 Na-138 
K-4.3 Cl-108 HCO3-23 AnGap-11
___ 01:45PM BLOOD UreaN-11 Creat-0.7 Cl-112* HCO___-22 
AnGap-11
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 4, AVR (tissue) with Dr. ___. 
See operative note for full details. Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable. Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery. Chest tubes and pacing wires were discontinued without 
complication. He had a foley reinserted for urinary retention 
and was started on Flomax. He voided successfully after the 
foley was removed for the second time. He had a brief episode of 
atrial fibrillation. Lopressor was increased, Amiodarone bolus 
was given and the patient converted to sinus rhythm. He remained 
in sinus rhythm for the remainder of his hospital course. He was 
evaluated by the physical therapy service for assistance with 
strength and mobility. By the time of discharge on POD 4 the 
patient was ambulating freely, the wound was healing and pain 
was controlled with oral analgesics. The patient was discharged 
home with visiting nurse services in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Aspirin EC 81 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Viagra (sildenafil) 100 mg oral DAILY:PRN 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN cp 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
2.  Furosemide 40 mg PO DAILY Duration: 5 Days 
RX *furosemide [Lasix] 40 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*1 
3.  Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1 
4.  Milk of Magnesia 30 mL PO DAILY  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ capsule(s) by mouth Q 4 hours Disp #*60 
Capsule Refills:*0 
6.  Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*1 
7.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Zantac Maximum Strength] 150 mg 1 tablet(s) 
by mouth twice a day Disp #*60 Tablet Refills:*0 
8.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth Q HS Disp #*30 
Capsule Refills:*0 
9.  Aspirin EC 81 mg PO DAILY  
10.  Cyanocobalamin 1000 mcg PO DAILY  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
AS
hyperglycemia, 
hyperlipidemia,  
arthralgia, 
B 12 deficiency, 
anemia, 
nephrolithiasis, 
HX Left leg FX, 
arthritis,
Psoriasis,  
erectile dysfunction
Past Surgical History: None

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

Edema- trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___